US06977262B2
4-(2-Chlorophenyl)-5-cyano-4,7-dihydro-6-(methylpiperazin-1-yl)methyl-2H-pyrazolo[3,4-b]pyridine dihydrochloride
4-(2-Chlorophenyl)-5-cyano-6-(t-butyldimethylsilyloxy)-methyl-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine was prepared from ethyl t-butyldimethylsilyloxyacetate, 2-chlorobenzaldehyde and 3-aminopyrazole in the same manner as in Example 94. To a solution of 4-(2-chlorophenyl)-5-cyano-6-(t-butyldimethylsilyloxy)methyl-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine (10 g) in tetrahydrofuran (100 ml) was added a THF solution (24.9 ml) of 1.0 M tetrabutylammonium fluoride and the mixture was stirred at room temperature for 1 hour. To the reaction mixture was added ethyl acetate (200 ml), and the resulting mixture was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was evaporated and the obtained residue was crystallized from ethyl acetate to give 4-(2-chlorophenyl)-5-cyano-6-hydroxymethyl-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine (5.46 g) as a white solid. To a solution of 4-(2-chlorophenyl)-5-cyano-6-hydroxymethyl-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine (1.0 g) and carbon tetrabromide (1.27 g) in methylene chloride (35 ml) was added triphenylphosphine (1.0 g) under ice-cooling and the mixture was stirred under ice-cooling for 4 hours. The reaction mixture was concentrated under reduced pressure and the obtained residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate (1:1)) to give 4-(2-chlorophenyl)-5-cyano-6-bromomethyl-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine (0.45 g) as a pale-yellow solid. To a suspension of sodium hydride (25 mg) in DMF (3 ml) was added 1-methylpiperazine (69 μl) and the mixture was stirred at room temperature for 30 minutes. To this reaction mixture was added a solution of 4-(2-chlorophenyl)-5-cyano-6-bromomethyl-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine (200 mg) in DMF (3 ml) under ice-cooling and the mixture was stirred under ice-cooling for 1 hour. To the reaction mixture was added water and the mixture was extracted with ethyl acetate. The extract was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was evaporated and the obtained residue was purified by silica gel column chromatography (eluent:ethyl acetate-methanol (4:1)). The obtained oil was treated with hydrogen chloride-methanol to give the title compound (87 mg) as white crystals.

reactant | sodium hydride | 25 mg | [H-].[Na+]
reactant | 1-methylpiperazine | 69 μl | CN1CCNCC1 | C5H12N2
reactant | 4-(2-chlorophenyl)-5-cyano-6-bromomethyl-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine | 200 mg | ClC1=C(C=CC=C1)C1C=2C(NC(=C1C#N)CBr)=NNC2 | C14H10BrClN4
reactant | water | O | H2O
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 4-(2-Chlorophenyl)-5-cyano-4,7-dihydro-6-(methylpiperazin-1-yl)methyl-2H-pyrazolo[3,4-b]pyridine dihydrochloride | 87 mg | Cl.Cl.ClC1=C(C=CC=C1)C1C=2C(NC(=C1C#N)CN1C(CNCC1)C)=NNC2 | InChI=1S/C19H21ClN6.2ClH/c1-12-9-22-6-7-26(12)11-17-14(8-21)18(13-4-2-3-5-16(13)20)15-10-23-25-19(15)24-17;;/h2-5,10,12,18,22H,6-7,9,11H2,1H3,(H2,23,24,25);2*1H
